US04204064
S-β-ureidoethylmercaptoacetic acid (Methods I and VIII)
To a solution of 34.1 g of β-mercaptoethylamine hydrochloride in 200 cc of water there are added a solution of 24.3 g of potassium cyanate in 80 cc of water, then 36 g of sodium monochloroacetate in 200 cc of water. The solution is heated at 50° C. for 2 hours while maintaining the pH at 6 by the addition of 2 N soda. The mixture is then acidified, concentrated to dryness and washed with a mixture of water and ethanol. After filtration, there are produced 42 g of the product which melts at 135° C.

reactant | β-mercaptoethylamine hydrochloride | 34.1 g | Cl.SCCN
reactant | potassium cyanate | 24.3 g | [O-]C#N.[K+]
reactant | sodium monochloroacetate | 36 g | ClCC(=O)[O-].[Na+]
solvent | water | 200 cc | O | H2O
solvent | water | 80 cc | O | H2O
solvent | water | 200 cc | O | H2O
product | S-β-ureidoethylmercaptoacetic acid | 42 g | N(C(=O)N)CCSCC(=O)O | C5H10N2O3S
